US05821243
(a) Preparation of 4-[N'-(2-ethoxycarbonyl-1-acetyl ethylidene)hydrazino]benzene sulfonamide
To a suspension of 10 g. (58.1 mmoles) of 4-aminobenzenesulfonamide in 50 ml of 1:1 ethanol/water was added 7.3 ml. of concentrated hydrochloric acid. To the cooled mixture was added in portions 4.41 g (63.9 mmoles) of sodium nitrite in 5 ml. of water. The mixture was allowed to come to room temperature and after 15 minutes was poured into a solution of 11.9 g. (63.9 mmoles) of ethyl-3-acetyl-4-oxopentanoate in 12.2 ml. of pyridine and 25 ml. of ethanol. An orange solid began to separate which was collected after 30 minutes by filtration. After drying, 24.3 g. of material was obtained.

reactant | 4-aminobenzenesulfonamide | 58.1 mmoles | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 63.9 mmoles, 4.41 g | N(=O)[O-].[Na+]
reactant | ethyl-3-acetyl-4-oxopentanoate | 63.9 mmoles | C(C)OC(CC(C(C)=O)C(C)=O)=O | C9H14O4
solvent | ethanol water | 50 ml | C(C)O.O
solvent | ethanol | C(C)O | C2H6O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-[N'-(2-ethoxycarbonyl-1-acetyl ethylidene)hydrazino]benzene sulfonamide | C(C)OC(=O)CC(C(C)=O)=NNC1=CC=C(C=C1)S(=O)(=O)N | C13H17N3O5S
